US07981882B2
7-Chloro-6-(3-phenylazetidin-1-yl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Use 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (prepared essentially as described in Preparation 1) (183 mg, 0.43 mmol), 3-phenylazetidine (75.2 mg, 0.56 mmol), palladium (II) acetate) (9.0 mg, 0.04 mmol), tris(dibenzylideneacetone)dipalladium(0) (37 mg, 0.04 mmol), BINAP (racemic, 37 mg, 0.06 mmol), cesium carbonate (195 mg, 0.6 mmol), anhydrous toluene (10 mL) and degas and fill with nitrogen (3 times). Seal the system with septum and tighten it with copper wire when necessary. Heat the mixture at 95° C. for 8 h. Dilute with EtOAc, wash with saturated aqueous sodium bicarbonate solution, brine, dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 10:90 EtOAc:hexanes) to give the title compound (61 mg, 35%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 3-phenylazetidine | 0.56 mmol, 75.2 mg | C1(=CC=CC=C1)C1CNC1 | C9H11N
reactant | BINAP | 0.06 mmol, 37 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.6 mmol, 195 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.04 mmol, 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Chloro-6-(3-phenylazetidin-1-yl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 61 mg, 35% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)N1CC(C1)C1=CC=CC=C1 | C21H20ClF3N2O
